US07691882B2
3-(3-(4-(5-Chloro-furan-2-ylmethyl)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a mixture of (4-(5-chloro-furan-2-ylmethyl)-phenyl)-acetohydroximoyl chloride (25 mg, 0.088 mmol) described in Manufacturing Example 62-1-6 and tetrahydrofuran (1 mL) were added 3-ethynyl-pyridin-2-ylamine (8.0 mg, 0.068 mmol) described in Manufacturing Example 1-2-3 and triethylamine (19 μL, 0.14 mmol) at room temperature, which was stirred for 1 hour at 55° C. The mixture was cooled to room temperature and water was added at the same temperature, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and the solvent was evaporated under a reduced pressure. The residue was purified by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoracetic acid) to obtain the title compound as a crude product, and this was then purified by NH silica gel column chromatography (ethyl acetate:heptane=1:1) to obtain the title compound (3.8 mg, 15%).

reactant | (4-(5-chloro-furan-2-ylmethyl)-phenyl)-acetohydroximoyl chloride | 0.088 mmol, 25 mg | ClC1=CC=C(O1)CC1=CC=C(C=C1)CC(=NO)Cl | C13H11Cl2NO2
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
reactant | 3-ethynyl-pyridin-2-ylamine | 0.068 mmol, 8.0 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | triethylamine | 0.14 mmol, 19 μL | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 3-(3-(4-(5-Chloro-furan-2-ylmethyl)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | ClC1=CC=C(O1)CC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C20H16ClN3O2
